US04608379
1-Hexyl-2-methylpyridinium bromide (7.8 g, 0.03 mole) and 4-dimethylaminobenzaldehyde (6.0 g, 0.04 mole) were refluxed in methanol (50 ml) in the presence of piperidine (1.0 ml) under nitrogen for four hours. On cooling and the addition of about 100 ml of ether a solid crystallised which was collected and washed with a little isopropanol to give 2-[4-(dimethylamino)styryl]-1-hexylpyridinium bromide (6.3 g), melting point 217°-218° (decomposition).

reactant | 1-Hexyl-2-methylpyridinium bromide | 0.03 mole, 7.8 g | [Br-].C(CCCCC)[N+]1=C(C=CC=C1)C
reactant | 4-dimethylaminobenzaldehyde | 0.04 mole, 6.0 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
reactant | ether | about 100 ml | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(dimethylamino)styryl]-1-hexylpyridinium bromide | 6.3 g | [Br-].CN(C1=CC=C(C=CC2=[N+](C=CC=C2)CCCCCC)C=C1)C | InChI=1S/C21H29N2.BrH/c1-4-5-6-8-17-23-18-9-7-10-21(23)16-13-19-11-14-20(15-12-19)22(2)3;/h7,9-16,18H,4-6,8,17H2,1-3H3;1H/q+1;/p-1
